US08242145B2
Step 8: {5-[4-Bromo-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-2-chloro-phenyl}-acetic acid
Hydrolysis of {5-[4-bromo-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-2-chloro-phenyl}-acetic acid ethyl ester (0.32 mmol) in 1,4-dioxane with aqueous lithium hydroxide, followed by purification by preparative HPLC, gave the desired product.

reactant | {5-[4-bromo-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-2-chloro-phenyl}-acetic acid ethyl ester | 0.32 mmol | C(C)OC(CC1=C(C=CC(=C1)OC1=C(C=C(C=C1)Br)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)Cl)=O | C27H25BrClNO5
reactant | lithium hydroxide | [OH-].[Li+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | {5-[4-Bromo-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-2-chloro-phenyl}-acetic acid | BrC1=CC(=C(OC=2C=CC(=C(C2)CC(=O)O)Cl)C=C1)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O | C25H21BrClNO5
